US05506228
1-chloro-1-[(3-nitrophenyl)hydrazono]-2-propanone is reacted with 4-chlorothiophenol triethyl amine in ethanol as Example 11 to yield 1-[(4-chlorophenyl)thio]-1-[(3-nitrophenyl)hydrazono]-2-propanone.

reactant | 1-chloro-1-[(3-nitrophenyl)hydrazono]-2-propanone | ClC(C(C)=O)=NNC1=CC(=CC=C1)[N+](=O)[O-] | C9H8ClN3O3
reactant | 4-chlorothiophenol triethyl amine | C(C)N(CC)CC.ClC1=CC=C(C=C1)S
solvent | ethanol | C(C)O | C2H6O
product | 1-[(4-chlorophenyl)thio]-1-[(3-nitrophenyl)hydrazono]-2-propanone | ClC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC(=CC=C1)[N+](=O)[O-] | C15H12ClN3O3S
